US07915270B2
7-Phenyl-1-(5-(2-(2,2,2-trifluoroacetyl)phenyl)oxazol-2-yl)heptan-1-one
1-(2-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)phenyl)-2,2,2-trifluoroethanone. The title compound was prepared from 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole (63 mg, 0.095 mmol) and 1-(2-chlorophenyl)-2,2,2-trifluoroethanone following General Procedure B. Flash chromatography (2-10% EtOAc/hexanes) yielded the title compound as a clear oil (43 mg, 83%): 1H NMR (CDCl3, 600 MHz) δ 7.70-7.64 (m, 3H), 7.51-7.48 (m, 1H), 7.26-7.24 (m, 3H), 7.16-7.15 (m, 3H), 4.79 (t, 1H, J=6.0 Hz), 2.58 (t, 2H, J=7.5 Hz), 1.88-1.81 (m, 2H), 1.61-1.60 (m, 2H), 1.35-1.25 (m, 6H), 0.87 (s, 9H), 0.07 (s, 3H), −0.05 (s, 3H); 13C NMR (CDCl3, 150 MHz) δ 186.2 (d, J=35 Hz), 167.0, 149.4, 143.7, 133.6, 133.6, 131.1, 129.5, 129.4, 129.3, 129.1, 128.3, 126.4, 125.6, 116.4 (d, J=285 Hz), 69.4, 37.3, 36.8, 32.3, 30.0, 26.5, 26.5, 25.8, 19.0, −4.2, −4.4.

reactant | 1-(2-(2-(1-(tert-Butyldimethylsilyloxy)-7-phenylheptyl)oxazol-5-yl)phenyl)-2,2,2-trifluoroethanone | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)C1=C(C=CC=C1)C(C(F)(F)F)=O | C30H38F3NO3Si
reactant | 2-(1-(tert-butyldimethylsilyloxy)-7-phenylheptyl)-5-(tributylstannyl)oxazole | 0.095 mmol, 63 mg | [Si](C)(C)(C(C)(C)C)OC(CCCCCCC1=CC=CC=C1)C=1OC(=CN1)[Sn](CCCC)(CCCC)CCCC
reactant | 1-(2-chlorophenyl)-2,2,2-trifluoroethanone | ClC1=C(C=CC=C1)C(C(F)(F)F)=O | C8H4ClF3O
product | 7-Phenyl-1-(5-(2-(2,2,2-trifluoroacetyl)phenyl)oxazol-2-yl)heptan-1-one | 43 mg, 83% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C1=C(C=CC=C1)C(C(F)(F)F)=O | C24H22F3NO3
